US07390903B2
To a stirred solution of 56 mg (0.23 mmol) (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-phenyl-methanone in 2 ml acetic acid was added 0.016 ml (0.24 mmol) of pentane-2,4-dione and one drop of sulfuric acid. The mixture was then stirred at 100° C. for 10 minutes in a microwave and then concentrated in vacuo. Flash chromatography (heptane/ethyl acetate 6:1) afforded 33 mg (47%) 1-(2-methyl-4-phenyl-6,7-dihydro-5H-cyclopenta[4,5]thieno [2,3-b]pyridin-3-yl)-ethanone as a yellow solid. ES-MS m/e (%): 308 (M+H+, 100).

reactant | (2-amino-5,6-dihydro-4H-cyclopenta[b]thiophen-3-yl)-phenyl-methanone | 0.23 mmol, 56 mg | NC1=C(C2=C(S1)CCC2)C(=O)C2=CC=CC=C2 | C14H13NOS
reactant | pentane-2,4-dione | 0.24 mmol, 0.016 ml | CC(CC(C)=O)=O | C5H8O2
solvent | acetic acid | 2 ml | C(C)(=O)O | C2H4O2
catalyst | sulfuric acid | one drop | S(O)(O)(=O)=O | H2O4S
product | 1-(2-methyl-4-phenyl-6,7-dihydro-5H-cyclopenta[4,5]thieno [2,3-b]pyridin-3-yl)-ethanone | 33 mg, 47% | CC1=C(C(=C2C(=N1)SC1=C2CCC1)C1=CC=CC=C1)C(C)=O | C19H17NOS
